US08133901B2
Benzofuran-4-carboxylic acid [(R)-1-(biphenyl-2-carbonyl)-piperidin-3-yl]amide
prepared by reaction of (R)-benzofuran-4-carboxylic acid piperidin-3-ylamide with biphenyl-2-carboxylic acid acid.

reactant | (R)-benzofuran-4-carboxylic acid piperidin-3-ylamide | N1C[C@@H](CCC1)NC(=O)C=1C=CC=C2C1C=CO2 | C14H16N2O2
reactant | biphenyl-2-carboxylic acid | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | Benzofuran-4-carboxylic acid [(R)-1-(biphenyl-2-carbonyl)-piperidin-3-yl]amide | C=1(C(=CC=CC1)C(=O)N1C[C@@H](CCC1)NC(=O)C=1C=CC=C2C1C=CO2)C2=CC=CC=C2 | C27H24N2O3
